US04332820
2-((4-Chlorophenyl)thio)-5-nitrobenzonitrile
To a solution of 15.2 g (0.105 moles) of 4-chlorothiophenol dissolved in 150 ml of DMSO was added 4.2 g (0.105 moles) of NaOH. The mixture was heated to 60° C. and 18.3 g (0.100 moles) of 2-chloro-5-nitrobenzonitrile was added and the mixture heated at 60° C. for 21/2 hrs. The mixture was cooled and poured into a solution of 100 ml of 2 N aqueous NaOH and 600 ml of water. The product was collected by filtration, washed well with water and dried to obtain 28.8 g of product (99% yield). Recrystallization from ethanol afforded purified 2-((4-chlorophenyl)thio)-5-nitrobenzonitrile, mp 162°-164.5° C.

reactant | 4-chlorothiophenol | 0.105 moles, 15.2 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | NaOH | 0.105 moles, 4.2 g | [OH-].[Na+]
reactant | 2-chloro-5-nitrobenzonitrile | 0.100 moles, 18.3 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | NaOH | 2 N, 100 ml | [OH-].[Na+]
reactant | water | 600 ml | O | H2O
solvent | DMSO | 150 ml | CS(=O)C | C2H6OS
product | 2-((4-Chlorophenyl)thio)-5-nitrobenzonitrile | 28.8 g, 99% yield | ClC1=CC=C(C=C1)SC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C13H7ClN2O2S
